US07781431B2
A solution (0.7 M) of methyl 6-benzyl-4-cyclohex-1-en-1-yl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylate in TFA at 0° C. was treated with triethylsilane (1.5 eq.). The mixture was stirred at 0° C. for 1 h then concentrated to give a residue that was purified by flash chromatography on silica gel (1:30 acetone/toluene) affording methyl 6-benzyl-4-cyclohexyl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylate as a solid that was dissolved in THF/MeOH (1:1). The resulting solution (0.04 M) was treated with aqueous KOH (1 N solution, 4 eq.) then the mixture was heated to 80° C. for 4 h. After cooling down, the mixture was concentrated then the resulting residue was diluted with water and pH was turned to neutral value by addition of aqueous ammonium chloride (saturated solution). The mixture was concentrated to give a residue that was purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 10 micron, 10×150 mm; flow: 20 mL/min; Gradient: A: H2O+0.05% TFA; B: MeCN+0.05% TFA; 50% A isocratic for 2 min then linear to 0% A in 10 min) to afford the title compound (58%) as a solid.

reactant | methyl 6-benzyl-4-cyclohex-1-en-1-yl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylate | 0.7 M | C(C1=CC=CC=C1)N1C2=C(C(=C1C1=CC=CC=C1)C1=CCCCC1)C=C(S2)C(=O)OC | C27H25NO2S
reactant | triethylsilane | 1.5 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | methyl 6-benzyl-4-cyclohexyl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylate | C(C1=CC=CC=C1)N1C2=C(C(=C1C1=CC=CC=C1)C1CCCCC1)C=C(S2)C(=O)OC | C27H27NO2S
